US07528129B2
15b) 4-amino-3-bromo-5-chloro-benzoic acid
A solution of 21.0 g (75.4 mmol) ethyl 4-amino-3-bromo-5-chloro-benzoate in 200 mL 4 M HCl and 100 mL EtOH was refluxed overnight. After cooling the precipitate formed was suction filtered and dried.

reactant | ethyl 4-amino-3-bromo-5-chloro-benzoate | 75.4 mmol, 21.0 g | NC1=C(C=C(C(=O)OCC)C=C1Cl)Br | C9H9BrClNO2
solvent | HCl | 4 M, 200 mL | Cl | ClH
solvent | EtOH | 100 mL | CCO | C2H6O
product | 4-amino-3-bromo-5-chloro-benzoic acid | NC1=C(C=C(C(=O)O)C=C1Cl)Br | C7H5BrClNO2
